US05491144
b) 4,5-Bis(4-fluoroanilino)phthalic acid
A steady stream of argon is passed through a suspension of 5.0 g (12.12 mmol) of 4,5-bis(4-fluoroanilino)phthalic acid dimethylester in 40 ml of methanol, and a solution of 2.04 g (48.6 mmol, 2 eq) of lithium hydroxide monohydrate in 20 ml of water is added. The reaction mixture is heated to reflux for 1 hour, cooled to RT and diluted with 50 ml water. Methanol is removed by evaporation, the resulting solution is cooled to 0°, and12 ml 4N hydrochloric acid and thereafter 100 ml of water are added. After 15 min at 0°, the gray crystals are filtered off, washed with waterand resuspended twice in 100 ml toluene with removal of the toluene by distillation to yield the title compound in the form of gray crystals, FAB-MS: 385 [M+ +H].

reactant | 4,5-bis(4-fluoroanilino)phthalic acid dimethylester | 12.12 mmol, 5.0 g | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=CC=C(C=C1)F)NC1=CC=C(C=C1)F)=O | C22H18F2N2O4
reactant | lithium hydroxide monohydrate | 48.6 mmol, 2.04 g, 2 eq | O.[OH-].[Li+]
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 4,5-Bis(4-fluoroanilino)phthalic acid | FC1=CC=C(NC=2C=C(C(C(=O)O)=CC2NC2=CC=C(C=C2)F)C(=O)O)C=C1 | C20H14F2N2O4
